US03952031
3α-Hydroxy-2β-(4'-morpholinoacetoxy-n-butoxy)-5α-pregnane-11,20-dione
3α-Hydroxy-2β-(4'-iodoacetoxy-n-butoxy)-5α-pregnane-11,20-dione (467 mg.) was dissolved in dried methylene chloride (30 ml.) and morpholine (1 ml.) added to this solution. The mixture was stirred at room temperature for 1 hour, a white precipitate forming in this time. The mixture was filtered and the filtrate evaporated to a yellow oil which was purified by preparative tlc in ethyl acetate (run twice) to give the title compound (220 mg.) as a colourless oil. [α]D + 57.1° (c 0.49).

reactant | 3α-Hydroxy-2β-(4'-iodoacetoxy-n-butoxy)-5α-pregnane-11,20-dione | 467 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1OCCCCOC(CI)=O)C)=O)C | C27H41IO6
reactant | morpholine | 1 ml | N1CCOCC1 | C4H9NO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3α-Hydroxy-2β-(4'-morpholinoacetoxy-n-butoxy)-5α-pregnane-11,20-dione | 220 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1OCCCCOC(CN1CCOCC1)=O)C)=O)C | C31H49NO7
